US05674891
Substantially the method described in Example 1 is employed for the reaction between 7-tert-butyl-2,3-dihydrobenzo[b]furan and pentanoic acid, to provide 1-(7-tert-butyl-2,3-dihydrobenzo[b]furan-5-yl)-butan-1-one as a colorless oil.

reactant | 7-tert-butyl-2,3-dihydrobenzo[b]furan | C(C)(C)(C)C1=CC=CC2=C1OCC2 | C12H16O
reactant | pentanoic acid | C(CCCC)(=O)O | C5H10O2
product | 1-(7-tert-butyl-2,3-dihydrobenzo[b]furan-5-yl)-butan-1-one | C(C)(C)(C)C1=CC(=CC2=C1OCC2)C(CCC)=O | C16H22O2
